US06008229
To a solution of 2-aminomethyl-1-[3-(tert-butyldiphenylsilyloxymethyl)-2,4-dichlorophenyl]pyrrole (465 mg) in anhydrous dimethylformamide (7 ml) were added 4-(methylcarbamoyl)cinnamic acid (206 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (219 mg) and 1-hydroxybenzotriazole (185 mg). The mixture was stirred at ambient temperature for 3 hours and partitioned between ethyl acetate and water. The organic layer was isolated and the aqueous layer was extracted with ethyl acetate. The organic layers were combined, washed with saturated aqueous sodium hydrogen carbonate and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was triturated with diisopropyl ether to give 1-[3-(tert-butyldiphenylsilyloxymethyl)-2,4-dichlorophenyl]-2-[4-(methylcarbamoyl)cinnamoylaminomethyl]pyrrole (622 mg) as a brownish powder.

reactant | 2-aminomethyl-1-[3-(tert-butyldiphenylsilyloxymethyl)-2,4-dichlorophenyl]pyrrole | 465 mg | NCC=1N(C=CC1)C1=C(C(=C(C=C1)Cl)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)Cl | C28H30Cl2N2OSi
reactant | 4-(methylcarbamoyl)cinnamic acid | 206 mg | CNC(=O)C1=CC=C(C=CC(=O)O)C=C1 | C11H11NO3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 219 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 185 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | 1-[3-(tert-butyldiphenylsilyloxymethyl)-2,4-dichlorophenyl]-2-[4-(methylcarbamoyl)cinnamoylaminomethyl]pyrrole | 622 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C(=C(C=CC1Cl)N1C(=CC=C1)CNC(C=CC1=CC=C(C=C1)C(NC)=O)=O)Cl | C39H39Cl2N3O3Si
